US07329658B2
Alternative Preparation of Intermediate 7-(2-Chlorophenyl)-2-methyl-3H-pyrazolo[1,5-a][1,3,5]triazin-4-one (I-1A-1c)
To a pale yellow solution of N-[5-(2-chlorophenyl)-2H-pyrazol-3-yl]-acetamidine (I-1A-1b; 2.04 g, 8.69 mmol) in DMSO (17 mL) was added 1,1′-carbonyldiimidazole (1.53 g, 9.44 mmol), portionwise over 1 minute at room temperature. After stirring for one hour, the reaction was added to stirred 1 M aqueous HCl (17 ml) over 5 minutes. The colorless precipitate that formed was stirred for 2.5 hours and then collected on a course sintered funnel. The solids were washed with water (50 ml) and then dried on the frit under a stream of air using low vacuum to afford I-1A-1c as a colorless solid (2.29 g, quantitative): +APcI MS (M+1) 261.3.

reactant | N-[5-(2-chlorophenyl)-2H-pyrazol-3-yl]-acetamidine | 8.69 mmol, 2.04 g | ClC1=C(C=CC=C1)C=1C=C(NN1)NC(C)=N | C11H11ClN4
reactant | 1,1′-carbonyldiimidazole | 9.44 mmol, 1.53 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | HCl | 1 M, 17 ml | Cl | ClH
solvent | DMSO | 17 mL | CS(=O)C | C2H6OS
product | 7-(2-Chlorophenyl)-2-methyl-3H-pyrazolo[1,5-a][1,3,5]triazin-4-one | ClC1=C(C=CC=C1)C1=NN2C(N=C(NC2=O)C)=C1 | C12H9ClN4O
